US07547710B2
To a solution of ethyl 4-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}butanoate (0.2 g, 0.37 mmol) in ethyl acetate (10 ml) was added 4N solution of hydrogen chloride in ethyl acetate (10 ml), and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was concentrated under reduced pressure and saturated aqueous sodium hydrogen carbonate was added to neutralize the residue. The obtained mixture was extracted with ethyl acetate and the extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give ethyl 4-{[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)-6-quinolinyl]oxy}butanoate (0.12 g) as an oil. The oil and p-toluenesulfonic acid monohydrate (57 mg, 0.25 mmol) were dissolved in ethanol (10 ml) and the mixture was concentrated under reduced pressure. The residue was crystallized from diethyl ether to give the title compound (0.11 g, yield 50%) as colorless crystals.

reactant | ethyl 4-{[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}butanoate | 0.37 mmol, 0.2 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCCCC(=O)OCC)CC(C)C | C32H42N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-{[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)-6-quinolinyl]oxy}butanoate | 0.12 g | NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCCCC(=O)OCC)CC(C)C | C27H34N2O3
